US04983328
Synthesis of N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-hydroxyethanamide
A mixture of 360 mg (1.62 mmoles) of 7-guanidinoheptanamide hydrochloride, 568 mg (1.94 mmoles) of N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride, 214 mg (1.62 mmoles) of glutaric acid and 0.36 ml of water was heated at 60° C. for 24 hours. After completion of the reaction, 5 ml of water was added to the reaction mixture and the resulting mixture was purified in a manner similar to that in Example 1, using CM-Sephadex® C-25 (Na-type) and Sephadex® LH-20 to obtain 317 mg (39% yield) of a white powder of N-[4-(3-aminopropyl)-aminobutyl]-2-(7-guanidinoheptanamido)-2-hydroxyethanamide trihydrochloride.

reactant | 7-guanidinoheptanamide hydrochloride | 1.62 mmoles, 360 mg | Cl.N(C(=N)N)CCCCCCC(=O)N
reactant | N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride | 1.94 mmoles, 568 mg | Cl.Cl.NCCCNCCCCNC(C(O)O)=O
reactant | glutaric acid | 1.62 mmoles, 214 mg | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | N-[4-(3-aminopropyl)-aminobutyl]-2-(7-guanidinoheptanamido)-2-hydroxyethanamide trihydrochloride | Cl.Cl.Cl.NCCCC(CCCNC(C(O)NC(CCCCCCNC(=N)N)=O)=O)N
solvent | water | 5 ml | O | H2O
solvent | water | 0.36 ml | O | H2O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidinoheptanamido)-2-hydroxyethanamide | 317 mg, 39% yield | NCCCNCCCCNC(C(O)NC(CCCCCCNC(=N)N)=O)=O | C17H37N7O3
